US04987132
3-Metyl-3-phenylbutanol (0.82 g) was refluxed in 47% hydrobromic acid (5 ml) under heating for 7 hours. To the reaction solution was added water and the solution was extracted with ether. After washing with a saturated aqueous solution of sodium chloride, the ether layer was dried over anhydrous magnesium sulfate, and the residue was then subjected to silica gel column chromatography. Elution with a hexane - ethyl acetate 10:1) mixture gave 1.02 of 1-bromo-3-methyl-3-phenylbutane.

reactant | 3-Metyl-3-phenylbutanol | 0.82 g | CC(CCO)(C)C1=CC=CC=C1 | C11H16O
reactant | water | O | H2O
reactant | hydrobromic acid | 5 ml | Br | BrH
product | 1-bromo-3-methyl-3-phenylbutane | BrCCC(C)(C1=CC=CC=C1)C | C11H15Br
